US05696138
N-(3-(trifluoromethyl)phenyl)-N'-(2-methoxy-5-(trifluoromethyl)phenyl) thiourea.
3-(trifluoromethyl)phenyl isothiocyanate in toluene (0.76 ml, 5.0 mmol) was added to a solution of 2-methoxy-5-(trifluoromethyl)aniline in toluene (10 ml). The resulting reaction mixture was stirred at RT overnight and the product was subsequently filtered off. 1.00 g (51%) of the title compound was isolated.

reactant | 3-(trifluoromethyl)phenyl isothiocyanate | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
reactant | 2-methoxy-5-(trifluoromethyl)aniline | COC1=C(N)C=C(C=C1)C(F)(F)F | C8H8F3NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.0 mmol, 0.76 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-(trifluoromethyl)phenyl)-N'-(2-methoxy-5-(trifluoromethyl)phenyl) thiourea | 1.00 g, 51% | FC(C=1C=C(C=CC1)NC(=S)NC1=C(C=CC(=C1)C(F)(F)F)OC)(F)F | C16H12F6N2OS
